Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, sweats
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ woman with a history of
overactive thyroid status post ablation, hyperlipidemia,
hypertension presenting with chest pain, headache, and a
pulsatile neck mass.

For the past 3 weeks, patient has had intermittent chest pain.
She describes this as a midline burning sensation. It lasts for 
a
few minutes at a time. It occurs ___ times a day. It is
accompanied with some diaphoresis. It is not related to 
activity.
No shortness of breath.

Patient also describes a dry cough. No fever or chills.

Patient has some nausea but no vomiting. No abdominal pain.
Patient continues to have normal bowel movements.

Patient also has complaints of a headache that has been
persistent for a few days. This was not a sudden onset headache.
Patient does not usually headaches. Patient believes this
headache coincides with the development of a pulsatile mass in
her right neck.

Patient has been seen at ___ for the above
complaints. Patient was diagnosed with heartburn. Patient had
persistence of her symptoms and for this reason presents to us
today.

Exam
-No acute distress
-No neck stiffness; no evidence of meningismus
-Lungs clear to auscultation
-Bedside ultrasound without pericardial effusion
-Patient with pulsatile mass at the base of the neck on the
right, mildly painful to palpation
-Abdomen benign
-No lower extremity edema

 
Past Medical History:
- "vascular spasm" causing temporary right eye blindness ___
- seen at ___ Eye and Ear
- overactive thyroid status post ablation
- hyperlipidemia
- hypertension 

 
Social History:
___
FAMILY HISTORY: Several members with high blood pressure. 

 
Physical Exam:
VITALS: ___ 1144 Temp: 98.2 PO BP: 121/67 R Lying HR: 60 
RR:
12 O2 sat: 97% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. No lower
extremity edema, + prominent arterial pulsation above right
clavicle
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout, romberg negative, gait steady
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS: ___ 06:15AM BLOOD WBC: 3.8* RBC: 4.93 Hgb: 12.8 Hct:
41.1 MCV: 83 MCH: 26.0 MCHC: 31.1* RDW: 15.0 RDWSD: 45.___ 
___ 02:27PM BLOOD D-Dimer: 1181* 
___ 06:15AM BLOOD Glucose: 82 UreaN: 9 Creat: 0.8 Na: 142 
K:
3.7 Cl: 102 HCO3: 27 AnGap: 13 
___ 06:15AM BLOOD ALT: 16 AST: 20 LD(LDH): 198 AlkPhos: 63
TotBili: 0.4 

- ___ CXR:  
IMPRESSION: No acute intrathoracic abnormality. 
o pulmonary embolism.
CT chest
Small dissection left subclavian artery, uncertain chronicity. 
No associated aortic dissection or other aortic abnormality.
Mild bronchial inflammation is chronic.
CT Head
1. Unremarkable head CT.
2. Unremarkable CT of the head without evidence of
stenosis,occlusion,or aneurysm.
3. Patent bilateral cervical carotid and vertebral arteries
without evidence of stenosis, occlusion, or dissection.
4. The right brachiocephalic is tortuous in the base of the 
right
neck with the proximal right common carotid artery extending
superficially in the right neck and is also tortuous, likely the
palpable abnormality at the base of the neck.  No other mass
lesion is identified.

Discharge Labs
___ 06:15AM BLOOD ALT-16 AST-20 LD(LDH)-198 AlkPhos-63 
TotBili-0.4
___ 02:00PM BLOOD TSH-8.3*
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: 
Ms. ___ is a ___ year old female with a PMH of hypertension,
vascular spasm causing episode of transient eye blindness,
overactive thyroid s/p ablation, who presents with chest pain,
fatigue, and lightheadedness, possibly concerning for a cardiac
etiology, though with a so far negative workup. 

ACUTE/ACTIVE PROBLEMS:

# Chest pain
# Episodic lightheadedness, nausea, diaphoresis 
# Fatigue
Her chest pain has not recurred; her neurologic exam is normal
and her CTA shows patent posterior circulation vessels, and no
masses or CVA.
There does not appear to be a central cause of her symptoms at
this time, and they are now largely resolved.  She ambulated 
without difficulty the day after admission and she was eager for 
discharge given resolution of her symptoms.  
 
# Neck mass
# Tortuous brachiocephalic vein
# Small left subclavian dissection
Vascular surgery consult appreciated - these are incidental
findings, will continue asa 81 mg a day, emphasize good blood
pressure control. 

# Headache - Reports none currently. CTA head without any acute
abnormalities

# Elevated AST - AST moderately elevated to 58, though will note
is hemolyzed specimen.  Normalized the next day.

CHRONIC/STABLE PROBLEMS:
# S/p thyroid ablation:   is on replacement synthroid, TSH 
mildly elevated, encouraged medication compliance, taking it on 
empty stomach, and f/u with PCP to see if she needs a dose 
change.
# History of vasospasm causing episode of R eye blindness
- continue home verapamil 

# Hypertension 
- continue home verapamil
- continue home Metoprolol
- continue home HCTZ
- continue home enalapril 

# Hyperlipidemia 
- continue home atorvastatin 

Greater than ___ hour spent on care on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. Cetirizine 10 mg PO DAILY 
5. Verapamil SR 240 mg PO Q24H 
6. Enalapril Maleate 20 mg PO DAILY 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Banophen (diphenhydrAMINE HCl) 50 mg oral QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Banophen (diphenhydrAMINE HCl) 50 mg oral QHS  
4.  Cetirizine 10 mg PO DAILY  
5.  Enalapril Maleate 20 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Levothyroxine Sodium 137 mcg PO DAILY  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small left subclavian artery dissection - incidental
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a variety of symptoms, including headache 
and dizziness and sweats.  Your symptoms are all improved with 
time and rest.  You had a CT scan of your head that was entirely 
normal and a CT scan of your neck showed a small dissection 
(tear) in the left subclavian artery.  This is not causing your 
symptoms.  Our vascular surgeons recommend that you take aspirin 
81 mg a day and that you maintain a blood pressure below 160/90. 
 Please followup with your ophtalmologist given that you have 
not seen them since ___. 
 
Followup Instructions:
___